US04643849
With 7.5 ml of ethanol were mixed 4.5 g of 1-{2-[[5-(dimethylamino)methyl-4-methyl-2-thienyl]methylthio]ethylamino}-1-methylthio-2-nitroethene and 3.5 g of DL-[2-(3-bromophenyl)-2-hydroxyethyl]amine, and the resulting mixture was subjected to reaction at room temperature for 30 hours. Thereto were added 5 ml of isopropanol and 30 ml of diethyl ether, and the mixture thus obtained was stirred, after which the crystals formed were collected by filtration. The crystals were recrystallized from 40 ml of isopropanol to obtain 4.3 g (yield 65%) of N-[2-(3-bromophenyl)-2-hydroxyethyl]-N'-{2-[[5-(dimethylamino)methyl-4-methyl-2-thienyl]methylthio]ethyl}-2-nitro-1,1-ethenediamine having a melting point of 104°-106° C.

reactant | ethanol | 7.5 ml | C(C)O | C2H6O
reactant | 1-{2-[[5-(dimethylamino)methyl-4-methyl-2-thienyl]methylthio]ethylamino}-1-methylthio-2-nitroethene | 4.5 g | CN(C)CC1=C(C=C(S1)CSCCNC(=C[N+](=O)[O-])SC)C | C14H23N3O2S3
reactant | [2-(3-bromophenyl)-2-hydroxyethyl]amine | BrC=1C=C(C=CC1)C(CN)O | C8H10BrNO
reactant | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | N-[2-(3-bromophenyl)-2-hydroxyethyl]-N'-{2-[[5-(dimethylamino)methyl-4-methyl-2-thienyl]methylthio]ethyl}-2-nitro-1,1-ethenediamine | 4.3 g, yield 65% | BrC=1C=C(C=CC1)C(CNC(=C[N+](=O)[O-])NCCSCC=1SC(=C(C1)C)CN(C)C)O | C21H29BrN4O3S2
